US04000260
2. 5'-azido-2',5'-dideoxyuridine
5' -O-Tosyl-2'-deoxyuridine (2.78 gm, 10 mmole) is dissolved in 50 ml of dimethylformamide (DMF) and 0.98 gm (20 mmole) of lithium azide added. The solution is heated at 100° C for 2 hours, then cooled and filtered. DMF is removed in vacuo at 40° and the yellow residue dissolved in 200 ml of 50% aqueous methanol. 20 gm of Dowex 50 (H+) resin are added and the solution stirred at room temperature for 30 minutes. After filtration, the solvent is reduced to 20-30 ml by rotary evaporation. As the solution becomes more and more concentrated, a white precipitate forms. The precipitate is collected by filtration, dried in vacuo over KOH pellets and recrystallized from 2-propanol to yield 2.05 gm (80% yield) of a white powder.

reactant | 5' -O-Tosyl-2'-deoxyuridine | 10 mmole, 2.78 gm | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C16H18N2O7S
reactant | lithium azide | 20 mmole, 0.98 gm | [N-]=[N+]=[N-].[Li+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5'-azido-2',5'-dideoxyuridine | 2.05 gm, 80% yield | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C9H11N5O4
